US20010027196A1
2-Amino-4-(4-methyl-furan-2-yl)-6-(2-pyridin-2-yl-ethylsulfanyl)-pyrimidine-5-carbonitrile
From 2-amino-4-methanesulfinyl-6-(4-methyl-furan-2-yl)-pyrimidine-5-carbonitrile, 2-(2-pyridyl)ethylmercaptan and DBU in DME. ES-MS m/e (%): 338 (M+H+, 100).

reactant | 2-amino-4-methanesulfinyl-6-(4-methyl-furan-2-yl)-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)S(=O)C)C#N)C=1OC=C(C1)C | C11H10N4O2S
reactant | 2-(2-pyridyl)ethylmercaptan | N1=C(C=CC=C1)CCS | C7H9NS
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-(4-methyl-furan-2-yl)-6-(2-pyridin-2-yl-ethylsulfanyl)-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=C(C1)C)C#N)SCCC1=NC=CC=C1 | C17H15N5OS
